US05270289
Methyl 2-(3-methoxyphenyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)acetate
8 g (230 mmol) Methyl 2-(3-methoxyphenyl)glycolate was dissolved in 100 ml dimethylformamide and treated with 2.8 g (20.4 mmol) potassium carbonate. After 20 minutes stirring, 8.8 g (40.7 mmol) 4,6-dimethoxy-2-methylsulphonylpyrimidine was added and the mixture heated for 1 hour at 90° C. The reaction mixture was then poured into 100 ml water and extracted with 100 ml ethyl acetate. The combined ethyl acetate phase was washed with water, dried over magnesium sulphate and evaporated. The residue was recrystallised from diisopropyl ether.

reactant | Methyl 2-(3-methoxyphenyl)glycolate | 230 mmol, 8 g | COC=1C=C(C=CC1)C(C(=O)OC)O | C10H12O4
reactant | potassium carbonate | 20.4 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,6-dimethoxy-2-methylsulphonylpyrimidine | 40.7 mmol, 8.8 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(3-methoxyphenyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)acetate | COC=1C=C(C=CC1)C(C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C16H18N2O6
